US09340538B2
Step C: (S)-benzyl 4-benzyl-2,2-dimethyl-5-oxomorpholine-3-carboxylate
(S)-4-benzyl-2,2-dimethyl-5-oxomorpholine-3-carboxylic acid (11.2 g, 42.5 mmol) was reacted with benzyl bromide (8.72 g, 51 mmol) according to the procedure as described in Example 34, Step A to give the title compound as a white solid (8.11 g, 54%). The compound was characterized by the following spectroscopic data:

reactant | (S)-4-benzyl-2,2-dimethyl-5-oxomorpholine-3-carboxylic acid | 42.5 mmol, 11.2 g | C(C1=CC=CC=C1)N1[C@@H](C(OCC1=O)(C)C)C(=O)O | C14H17NO4
reactant | benzyl bromide | 51 mmol, 8.72 g | C(C1=CC=CC=C1)Br | C7H7Br
product | (S)-benzyl 4-benzyl-2,2-dimethyl-5-oxomorpholine-3-carboxylate | 8.11 g, 54% | C(C1=CC=CC=C1)N1[C@@H](C(OCC1=O)(C)C)C(=O)OCC1=CC=CC=C1 | C21H23NO4
